US04672066
1-(2,4-dihydroxy-3-propylphenyl)ethanone was allowed to react with methyl 3-bromomethylbenzoate according to the procedure of Example 69 and the product was purified by recrystallization from methylene chloride-ether to give 3-[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]benzoic acid methyl ester, the title compound, mp 141°-143°, in 89% yield. Analysis Calculated for C20H22O5 : C, 70.16; H, 6.48. Found: C, 69.99; H, 6.41.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | methyl 3-bromomethylbenzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
product | 3-[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]benzoic acid methyl ester | COC(C1=CC(=CC=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C20H22O5
